Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Thorazine / Depakote / codeine
 
Attending: ___.
 
Chief Complaint:
"I've been depressed"

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Patient is a ___ y/o F with self-reported hx of depression,
anxiety, ADHD, PTSD who presents with suicidal ideation in the
setting of losing her apartment ___ weeks ago. 
  
Course in Emergency Department: pt remained in good behavioral
control. She received per home regimen: Suboxone, gabapentin,
propranolol, clonazepam, clonidine, omeprazole, HCTZ, and
levothyroxine. 

On interview, pt reports that she feels like everything in her
life goes wrong. Recent events of being evicted and having her
friend "use me for money" make her feel like she's all alone and
no one cares about her. Reports she was accused of dealing drugs
and clogging up the plumbing in her old apartment and denies
both. Brother did not come her financial aid when she asked for
help with rent and instead came by in a pickup truck and waited
while she loaded her things up by herself. She reports taking 22
trips up and down the stairs and when referencing how much stuff
she is storing at her brother's place she says "only like 4
bags." Only social support is her mother who is failing in
health. She becomes tearful in speaking about her deceased
father. 

She reports being taken by her brother to ___ at the
beginning of the ___ due to depression. She was then admitted
to ___, and reports being sent on a section 35 the following
day without being seen by a doctor.

Regarding substance use she reports being sober from heroin for
approximately ___ years as that is how long she has been on
suboxone. Longest prior period of sobriety was age ___ when 
she
denies having been on maintenance medications. She cannot report
when she last used crack cocaine. She uses marijuana most days
"for my appetite." She has graduated from 7 halfway houses, most
recently graduating from ___. Her case worker is ___
who she reports calling repeatedly without response. 
  
Patient denies current urges to self-harm, and is able to agree
that she will alert staff if feeling unsafe. 

 
Past Medical History:
Hypothyroidism 
HTN
Has a history of epilepsy (last seizure in ___

 
Social History:
 - Born/Raised: Born in ___, came to US at 8 months. Grew 
up
in ___ with mom, dad, 2 brothers (1 older, ___ younger)
 - Family/Support: father deceased ___ years ago, mom age ___ 
lives
with younger brother (pt not allowed to house to visit due to 
two
small children in the home in ___ and fear that she 
would
"slit her wrists in front of them"), older brother (sometimes in
contact, lives in ___
 - Relationship status/Children: married in ___, separated 
since
___ (no one knows where husband is), ___ old daughter with
different partner (open adoption, lives in ___, denies 
recent contact)
 - Housing: homeless, was living in ___ but lost housing a
couple weeks ago (evicted, brother did not fight eviction but 
helped her move and store her belongings)
 - Education: Graduated HS
 - Employment/Income: ___ at ___ 
___; ___ for ___. Last worked a few 
years ago as a ___ at a ___'s ___. SSI/SSDI for 
epilepsy and depression
 - Spiritual: denies 
 - Trauma history: reports history of sexual, physical, and 
emotional abuse (by ? father and possible others at unclear time 
in life) 
 
Family History:
 - History of psychiatric disorders: mother - depression, 
anxiety
 - History of suicide attempts: denies
 - History of substance use: denies
 
Physical Exam:
Physical Examination:
 VS:  97.7 PO   100/69   66   17   97 
 General- NAD
 Skin- no rashes or bruises
 HEENT- PERRLA, MMM, normal oropharynx
 Lungs- CTA bilaterally
 CV- RRR, N S1 and S2, no m/r/g
 Abdomen- Soft, mildly tender in upper quadrants, ND, +BS, no
guarding or rebounding
 Extremities- No edema, normal tone
 Neuro- normal gait, ___ strength UE & ___ bilaterally, normal
sensation throughout
 Cranial nerves:
      pupils symmetry and responsiveness to light and
accommodation: PERRLA    
      visual fields: full to confrontation
      EOM:  full
      facial sensation to light touch in all 3 divisions: equal
      facial symmetry on eye closure and smile:  symmetric
      hearing bilaterally to rubbing fingers: normal
      phonation: normal
      head turning and shoulder shrug:  intact
      tongue:   midline, pierced
      abnormal movements: none noted

Neuropsychiatric Examination:
   - Appearance: appears stated age, dressed in hospital gown,
adequate hygiene and grooming, no apparent distress
 - Behavior: cooperative
 - Psychomotor: restless 
 - Eye contact: appropriate 
 - Speech: fluent, loud, normal tone, rate, prosody 
 - Mood and Affect: "irritated," congruent, reactive
 - Thought content: denies suicidal ideation, denies homicidal
ideation; denies delusions, no AVH
 - Thought process: linear, sometimes confused but largely
coherent, goal directed
 - Judgment and Insight:  poor/poor

  *Cognition:
     *Attention:  attends to interview, MOYB
     *Orientation:  oriented to self, location, date
     *Memory: reg ___, recall ___
     *Fund of knowledge: can relate current events
      Calculations: nickels in $1.10 "30"
     *Speech: Normal rate, tone and volume
     *Language: Fluent

Discharge Exam:
VS: 97.9 PO  BP 96/71  HR 65  RR 16   O2 Sat 97 % on RA

A: Appearing stated age, good grooming/hygiene, wearing clean 
casual clothing
B: Sitting up in chair, appropriate eye contact, no PMA/PMR
S: Normal rate, volume, and tone
M: "It's alright"
A: Mood-congruent, full range
TP: Linear, coherent, goal-oriented, no LOA
TC: Denies SI/HI/AVH
I/J: Fair/Fair
Ms. ___ shared about positive plans. She was planning to meet with 
her mother later today to get money for the telephone. She 
reported about plan to follow up on treatment recommendations.
 
Pertinent Results:
___ 01:10PM BLOOD WBC-2.7* RBC-4.05 Hgb-12.5 Hct-37.3 
MCV-92 MCH-30.9 MCHC-33.5 RDW-12.9 RDWSD-43.4 Plt Ct-99*
___ 01:10PM BLOOD Neuts-48.1 ___ Monos-9.6 Eos-4.1 
Baso-0.4 AbsNeut-1.30* AbsLymp-1.02* AbsMono-0.26 AbsEos-0.11 
AbsBaso-0.01
___ 01:10PM BLOOD Plt Smr-LOW* Plt Ct-99*
___ 01:10PM BLOOD ___ PTT-34.8 ___
___ 01:10PM BLOOD UreaN-11 Creat-0.5 Na-139 K-4.3 Cl-102 
HCO3-26 AnGap-11
___ 01:10PM BLOOD ALT-148* AST-137* AlkPhos-117* 
TotBili-0.5
___ 01:10PM BLOOD Albumin-3.4* Calcium-8.8 Phos-4.6* Mg-1.7
___ 03:40AM BLOOD TSH-0.01*
___ 03:40AM BLOOD T3-165 Free T4-1.2
___ 12:30AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, Ms. ___ signed a conditional voluntary 
agreement (Section 10 & 11) and that legal status remained in 
place throughout admission.  Ms. ___ was also placed on 15 
minute checks status on admission and remained on that level of 
observation throughout while being unit restricted.
 
2. PSYCHIATRIC:
#) Mood disorder NOS: pt has history of mood disorder that is 
diagnostically complicated by her substance use. She has a 
significant trauma history including an alleged sexual assault 
on an inpatient psych unit within the last year and likely has 
chronic complex PTSD in addition to mood disorder. Her 
medication regimen on admission was notable for polypharmacy 
with 3 anti-psychotics, (olanzapine, Saphris, Seroquel) that 
were consolidated to Seroquel alone. Adderall 40mg was 
discontinued with a great deal of protest and perseveration that 
gradually waned over several days. In addition, she displayed 
significant irritability, mood lability, and poor impulse 
control which improved somewhat over the hospital course. 
Cognitive exam was notable for poor calculations but ___ free 
recall over her insistence of being unable to remember 
"anything." As the day of discharge approached she escalated 
behaviors such as splitting and externalizing, and these 
borderline personality traits are likely contributing 
significantly to her current presentation. She also complained 
of severe leg pain that was worked up by medicine (see below.) 
Of note, following discharge she was seen standing comfortably 
beside a bench waiting for a cab. 

3. SUBSTANCE USE DISORDERS:
#) Opioid Use Disorder-currently on suboxone treatment
Ms. ___ mood symptoms are significantly complicated by 
her substance use history, although she reports ___ year sobriety 
while on Suboxone. Ms. ___ was counseled regarding the 
negative effects of incorrect use of opioids upon 
mental/physical health and abstinence from opioids was 
encouraged.  She was provided resources to assist in maintaining 
abstinence upon discharge.

#) Tobacco Use Disorder: Ms. ___ was counseled regarding 
the negative effects of tobacco upon mental/physical health and 
abstinence from tobacco was encouraged. Nicotine patches were 
used for cravings while inpatient and she was provided a 
prescription for these patches following discharge.  She was 
provided resources to assist in maintaining abstinence upon 
discharge.

#) Marijuana Use: pt reports smoking most days for the purpose 
of helping with her appetite. Ms. ___ was counseled 
regarding the possible negative effects of marijuana on 
mental/physical health and abstinence from marijuana was 
encouraged. 

4. MEDICAL
Ms. ___ was medically cleared in the ED; no acute  medical 
issues prevented admission to Deac 4.  Additionally, Ms. 
___ has no chronic medical issues requiring attention. 

___ pain, Edema: pt complained of L leg pain and b/l edema. She
agreed to compression stockings and heat pack with gentle 
stretching. The day prior to discharge she was evaluated by 
Medicine who performed a thorough workup including RUQ US, CXR, 
CMP, CBC, BNP, and LENIs were ordered but refused by Ms. 
___. This workup revealed cirrhotic liver diagnosed by US 
which was determined to be the most likely precipitant of her 
persistently elevated LFTs, low platelet and WBC counts, and 
hypoalbuminemia. She may have venous stasis or mild lymphatic 
obstruction. She was recommended to maintain a ___ sodium diet, 
use compression stockings and elevation of feet, daily weights, 
and continue HCTZ. Lasix considered and not initiated due to 
concern for precipitating electrolyte abnormalities. CXR and BNP 
were largely WNL, ruling out heart failure. Other acute causes, 
(volume overload from cirrhotic disease, nephrotic syndrome, or 
myxedema,) were ruled out. These results were felt by the 
medicine team to be stable for follow-up on an outpatient basis 
and she has a new PCP intake scheduled for ___. 

# Hepatic cirrhosis: seen on RUQ u/s, in the setting of 
untreated HCV. This should be followed up by her outpatient 
doctor, would recommend referral to a hepatologist. Based on 
labs she is a Childs Class A with a MELD of 8. Patient should be 
monitored for signs and symptoms of cirrhotic decompensation 
such as encephalopathy, ascites,
and have an EGD to evaluate for varices. 
- continue lactulose as needed for constipation, although no
clear history of hepatic encephalopathy 
- outpatient follow up with consideration of referral to
hepatology for treatment of HCV and monitoring of cirrhosis 

# shortness of breath
# end expiratory wheezing: no evidence of pathology on chest 
x-ray. No evidence of ACS, heart failure, COPD exacerbation. 
Given her smoking history patient is at risk for COPD and OSA. 
- consider use of duonebs for symptoms if wheezing or shortness
of breath continues 
- Recommend outpatient sleep evaluation and PFTs 
- continue to encourage smoking cessation 

#HTN: BP in good control. Continued home regimen of 
Hydrochlorothiazide 25 mg PO/NG DAILY and Propranolol 20 mg 
PO/NG TID.

#Hypothyroidism: pt presented with undetectable TSH level 
indicating need to decrease current Levothyroxine dose from 
175mcg. Decreased to 100mcg, monitored for
symptoms. Rechecked revealed TSH still undetectable and FT4 1.2. 
This should be followed up after discharge in ___ weeks.

#GERD: pt endorsed abdominal discomfort and had mildly tender to 
palpation on admission in epigastric region.  Started Omeprazole 
20 mg PO DAILY and advised on nutrition to minimize symptoms.

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
Ms. ___  was encouraged to participate in the various 
groups and milieu therapy opportunities offered by the unit.  
The occupational therapy and social work groups focus on 
teaching patients various coping skills. Ms. ___ 
occasionally attended these groups.  Ms. ___ was visible on 
the milieu and interacted with staff and peers, occasionally 
irritably.  

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Ms. ___ gave verbal and written permission for the team to 
contact her outpatient psychiatrist, Dr. ___ outpatient 
case worker, ___.  Both were provided with a summary 
of Ms. ___ presentation to the ___ ED/Deac 4 and an 
update of her progress since admission on Deac 4, and they 
provided collateral information and treatment recommendations.

Ms. ___ did not consent to have her family contacted and 
they did not become involved with the team directly during this 
admission. 

6. INFORMED CONSENT: 
Medication: Seroquel (quetiapine)
---Intended effects/Benefits: treatment of thought disorder, 
mood stabilization, depression, anxiety
---Adverse effects/Risks: Drowsiness, nausea, akathisia, EPS, 
tremor, 
TD, QTc prolongation
Ms. ___ was informed of alternative treatments, the 
consequences of no treatment, and the expected duration of 
treatment. She appeared to appreciate the information conveyed 
in the consent process by asking appropriate questions, which 
were answered by the treatment team, and expressing 
understanding of the potential risks and benefits (see above).  
Prior to starting treatment, the team also discussed the 
patient's right to decide whether to take this medication as 
well as the importance of the patient's actively participating 
in the treatment.  Ms. ___ understood the above and 
consented to begin the medication.

7. RISK ASSESSMENT
On presentation, Ms. ___ was evaluated and felt to be at an 
increased risk of harm to herself due to her suicidal ideation.  
Ms. ___ static risk factors noted at that time include 
separated marital status, chronic mental illness, previous 
suicide attempt, acutely stressful events, and lack of social 
supports.  The modifiable risk factors identified were as such: 
homelessness, poor distress tolerance and coping skills, 
impulsive behavior, agitation, decreased self-esteem.  These 
modifiable risk factors were addressed with acute stabilization 
in a safe environment on a locked inpatient unit, 
psychopharmacologic adjustments, psychotherapeutic interventions 
(OT groups, SW groups, individual therapy meetings with 
psychiatrists), and presence on a social milieu environment.  
Ms. ___ is being discharged with many protective factors, 
including improved outpatient support, lack of suicidal 
ideation, help-seeking behavior, future-oriented viewpoint, 
improved coping skills.  Overall, based on the totality of our 
assessment at this time, Ms. ___ is not at an acutely 
elevated risk of harm to self nor danger to others. 

Our prognosis of this patient is guarded and would improve 
significantly if she engages in outpatient treatment.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Buprenorphine-Naloxone (8mg-2mg) 1 TAB SL DAILY 
2. Gabapentin 800 mg PO TID 
3. Amphetamine-Dextroamphetamine XR 40 mg PO DAILY 
4. Propranolol 20 mg PO TID 
5. ClonazePAM 0.5 mg PO TID 
6. Prazosin 2 mg PO QHS:PRN insomnia 
7. Omeprazole 20 mg PO DAILY 
8. Hydrochlorothiazide 25 mg PO DAILY 
9. CloNIDine 0.2 mg PO TID 
10. ASENapine 20 mg SL QHS 
11. OLANZapine 10 mg PO DAILY 
12. Doxepin HCl 150 mg PO HS 
13. Levothyroxine Sodium 175 mcg PO DAILY 

 
Discharge Medications:
1.  Nicotine Patch 21 mg TD DAILY smoking sessation 
RX *nicotine 21 mg/24 hour apply one patch daily Disp #*28 Patch 
Refills:*0 
2.  QUEtiapine Fumarate 300 mg PO QHS 
RX *quetiapine 300 mg 1 tablet(s) by mouth each night Disp #*4 
Tablet Refills:*0 
3.  QUEtiapine Fumarate 50 mg PO Q3H:PRN severe 
anxiety/agitation 
RX *quetiapine 50 mg 1 tablet(s) by mouth ___ times daily as 
needed Disp #*10 Tablet Refills:*0 
4.  Amphetamine-Dextroamphetamine XR 10 mg PO DAILY 
RX *dextroamphetamine-amphetamine 10 mg 1 capsule(s) by mouth 
daily Disp #*4 Capsule Refills:*0 
5.  Buprenorphine-Naloxone (8mg-2mg) 1 TAB SL BID 
RX *buprenorphine-naloxone 8 mg-2 mg 1 tablet(s) sublingually 
twice daily Disp #*8 Tablet Refills:*0 
6.  Doxepin HCl 100 mg PO HS mood disorder 
RX *doxepin 100 mg 1 capsule(s) by mouth each night Disp #*4 
Capsule Refills:*0 
7.  Levothyroxine Sodium 100 mcg PO DAILY 
RX *levothyroxine 100 mcg 1 tablet(s) by mouth each morning Disp 
#*8 Tablet Refills:*0 
8.  ClonazePAM 0.5 mg PO TID 
RX *clonazepam 0.5 mg 1 tablet(s) by mouth three times daily 
Disp #*12 Tablet Refills:*0 
9.  CloNIDine 0.2 mg PO TID 
RX *clonidine HCl 0.2 mg 1 tablet(s) by mouth three times daily 
Disp #*12 Tablet Refills:*0 
10.  Gabapentin 800 mg PO TID 
RX *gabapentin 800 mg 1 tablet(s) by mouth three times daily 
Disp #*12 Tablet Refills:*0 
11.  Hydrochlorothiazide 25 mg PO DAILY 
RX *hydrochlorothiazide 25 mg 1 tablet(s) by mouth daily Disp 
#*8 Tablet Refills:*0 
12.  Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth daily Disp #*10 
Capsule Refills:*0 
13.  Prazosin 2 mg PO QHS:PRN insomnia 
RX *prazosin 2 mg 1 capsule(s) by mouth nightly as needed Disp 
#*4 Capsule Refills:*0 
14.  Propranolol 20 mg PO TID 
RX *propranolol 20 mg 1 tablet(s) by mouth three times daily 
Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Mood d/o (Bipolar spectrum d/o vs Borderline Personality traits 
vs PTSD)
Opiate use d/o
Cocaine use d/o

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___